US05908858
77(i) N-Benzylidene-4-sulfamoylaniline
Following a procedure similar to that described in Example 1(i), but using benzaldehyde and 4-sulfamoylaniline as starting materials, the title compound was obtained as a pale yellow powder (yield 91%).

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-sulfamoylaniline | S(N)(=O)(=O)C1=CC=C(N)C=C1 | C6H8N2O2S
product | N-Benzylidene-4-sulfamoylaniline | C(C1=CC=CC=C1)=NC1=CC=C(C=C1)S(N)(=O)=O | C13H12N2O2S
